US06541661B1
Step 1: 3-(4-Bromophenyl)-propanoic Acid (74)
Under nitrogen atmosphere in a 250 mL round bottomed flask containing 4-bromocinnamic acid (5.0 g, 22 mmoles) in 45 mL of N,N-dimethylformamide (0.5 M) was added benzenesulfonylhydrazide (7.6 g, 44 mmoles). The mixture was stirred at reflux for 12 hours. The solution was cooled at room temperature, aqueous saturated ammonium chloride was added and the aqueous layer was extracted with ethyl acetate 3 times. Combined organic layers were washed with water and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under vacuo. The resulting solid was purified by flash chromatography eluting with 5% methanol:95% dichloromethane to afford 3.66 g (73%) of beige solid.

reactant | 4-bromocinnamic acid | 22 mmoles, 5.0 g | BrC1=CC=C(C=CC(=O)O)C=C1 | C9H7BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 0.5 M, 45 mL | CN(C=O)C | C3H7NO
product | 3-(4-Bromophenyl)-propanoic Acid | 3.66 g, 73% | BrC1=CC=C(C=C1)CCC(=O)O | C9H9BrO2
